US06448266B1
Ethyl 3-[1-benzyloxy-3-(tert-butoxycarbonylamino)cyclobutan-3-yl]-3-oxopropionate
A 37.24 g (115.7 mmol) portion of 1-benzyloxy-3-(tert-butoxycarbonylamino)cyclobutane-3-carboxylic acid was dissolved in 300 ml of tetrahydrofuran to which, while cooling in an ice bath with stirring, was added 20.63 g (127.2 mmol) of N,N-carbonyldiimidazole. After 10 minutes of stirring, the ice bath was detached and the reaction mixture was stirred at room temperature for 3 hours. To the reaction solution which was cooled in an ice bath with stirring was added dropwise 200 ml of tetrahydrofuran solution containing 36.45 g (127.2 mmol) of magnesium ethylmalonate. After 1 hour of stirring, the ice bath was detached, and the reaction mixture was stirred at room temperature for 10 hours. While cooling in an ice bath with stirring, the reaction mixture was mixed with 10% citric acid aqueous solution and then with ethyl acetate to effect separation of layers, and the resulting organic layer was washed with saturated sodium bicarbonate aqueous solution. The organic layer was further washed with saturated brine. After extraction of the aqueous layer with ethyl acetate, the organic layers were combined and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under a reduced pressure and the resulting residue was purified by a silica gel column chromatography to give 38.84 g (85.8%) of the title compound.

reactant | 1-benzyloxy-3-(tert-butoxycarbonylamino)cyclobutane-3-carboxylic acid | C(C1=CC=CC=C1)OC1CC(C1)(C(=O)O)NC(=O)OC(C)(C)C | C17H23NO5
reactant | N,N-carbonyldiimidazole | 127.2 mmol, 20.63 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | magnesium ethylmalonate | 127.2 mmol, 36.45 g | C(C)C(C(=O)[O-])C(=O)[O-].[Mg+2]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 3-[1-benzyloxy-3-(tert-butoxycarbonylamino)cyclobutan-3-yl]-3-oxopropionate | 38.84 g, 85.8% | C(C1=CC=CC=C1)OC1CC(C1)(NC(=O)OC(C)(C)C)C(CC(=O)OCC)=O | C21H29NO6
